US09447076B2
Intermediate C: tert-Butyl (4-((2-chloropyridin-4-yl)methoxy)naphthalen-1-yl)carbamate
To a mixture of 2-chloro-4-(chloromethyl)pyridine (30 g, 185 mmol) and tert-butyl (4-hydroxynaphthalen-1-yl)carbamate (40.0 g, 154 mmol) in acetonitrile (200 mL) was added caesium carbonate (75 g, 231 mmol) and the resulting mixture was heated to 55° C. After 16 h the reaction mixture was diluted with 30% MeOH in DCM (600 mL) and water (400 mL). The layers were separated and the aqueous layer was extracted with a further amount of 30% MeOH in DCM (2×600 mL) and the organics were concentrated in vacuo to afford the crude product. The crude product was triturated with MeOH (200 mL), sonicated for c.a. 5 min and slurried for 1 day. The resulting solid was collected by filtration and washed with MeOH (2×10 mL) to yield the subtitle compound tert-butyl (4-((2-chloropyridin-4-yl)methoxy)naphthalen-1-yl)carbamate as a yellow solid (43 g, 70%); Rt 2.60 min (Method 1); m/z 383 (M−H)− (ES−); 1H NMR δ:1.47 (9H, s), 5.41 (2H, s), 6.98 (1H, d), 7.36 (1H, d), 7.55-7.61 (3H, overlapping m), 7.65 (1H, m), 7.94 (1H, m), 8.29 (1H, m), 8.45 (1H, m), 9.00 (1H, bs).

reactant | 2-chloro-4-(chloromethyl)pyridine | 185 mmol, 30 g | ClC1=NC=CC(=C1)CCl | C6H5Cl2N
reactant | tert-butyl (4-hydroxynaphthalen-1-yl)carbamate | 154 mmol, 40.0 g | OC1=CC=C(C2=CC=CC=C12)NC(OC(C)(C)C)=O | C15H17NO3
reactant | caesium carbonate | 231 mmol, 75 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | MeOH | CO | CH4O
solvent | DCM | 600 mL | C(Cl)Cl | CH2Cl2
solvent | water | 400 mL | O | H2O
product | tert-butyl (4-((2-chloropyridin-4-yl)methoxy)naphthalen-1-yl)carbamate | 43 g, 70% | ClC1=NC=CC(=C1)COC1=CC=C(C2=CC=CC=C12)NC(OC(C)(C)C)=O | C21H21ClN2O3
